US04281012
A solution of 124.8 g of ethyl iodide in 200 ml of anhydrous ether was added dropwise to a stirred dispersion of 19.5 g of magnesium turnings in 100 ml of anhydrous ether and the mixture was refluxed for 45 minutes and cooled in a ice water bath. A solution of 37.2 g of ethyl 5-chloro-salicylate in 120 ml of anhydrous ether was added thereto dropwise and the ether was distilled off while being replaced with 350 ml of anhydrous benzene. The solution was refluxed for 6 hours and was then cooled to room temperature and poured into an ice solution of 2 N hydrochloric acid. The decanted aqueous phase was washed 3 times with 75 ml of ether and the ether phase was washed twice with 100 ml of water until the wash water was neutral. The organic phase was dried over magnesium sulfate, was treated with activated carbon and was filtered. The filtrate was evaporated to dryness to obtain 38.3 g of raw product which was crystallized from 100 ml of cyclohexane and dried to obtain 27.5 g of 5-chloro-α,α-diethyl-2-hydroxy-benzene-methanol melting at 76° C.

reactant | ethyl iodide | 124.8 g | C(C)I | C2H5I
reactant | magnesium | 19.5 g | [Mg] | Mg
reactant | ethyl 5-chloro-salicylate | 37.2 g | ClC1=CC=C(C(C(=O)OCC)=C1)O | C9H9ClO3
reactant | ether | 200 ml | CCOCC | C4H10O
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | ether | 120 ml | CCOCC | C4H10O
product | 5-chloro-α,α-diethyl-2-hydroxy-benzene-methanol | 27.5 g | ClC=1C=CC(=C(C1)C(O)(CC)CC)O | C11H15ClO2
